prog-pipes.cir
 
*** analysis type ***
.tran .01us 10us
v1 1 0 DC 1.0
v2 2 0 DC 0.0

.model d_osc1 d_osc (cntl_array=[-1.0 0.0 1.0 2.0] 
+                    freq_array=[1.0e6 1.0e6 4.0e6 4.0e6]
+                    rise_delay=1.0e-6 fall_delay=2.0e-6)

a1 1 clk1 d_osc1 
a2 2 clk2 d_osc1 

ap0_4 null clk1 null [q1 q2 q3 q4] proc0
.model proc0 d_process (process_file="graycode|" process_params=["--pipe"])

ap1_4 [clk2] clk1 null [o1 o2 o3 o4] proc1
.model proc1 d_process (process_file="prog1in4out" process_params=["opt1", "qwerty"])

ap4_1 [o1 o2 o3 o4] clk1 null [zeros] proc2
.model proc2 d_process (process_file="prog4in1out" process_params=["abc", "99"])

ap4_1a [q1 q2 q3 q4] clk1 null [qzeros] proc3
.model proc3 d_process (process_file="prog4in1out")

.control
run
edisplay
eprvcd clk1 clk2  o1 o2 o3 o4 q1 q2 q3 q4 zeros qzeros > prog1-4.vcd
shell gtkwave prog1-4.vcd --script nggtk.tcl &
* quit
.endc
.end

